US08048887B2
5-(3-(1H-Pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
Cesium carbonate (234 mg, 0.719 mmol) was added to Pd(Ph3P)4 (20.77 mg, 0.018 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate (150 mg, 0.359 mmol), 5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole (146 mg, 0.539 mmol). Dioxane (3 mL) and water (599 μL) was added at rt. The reaction was heated to 90° C. overnight. The mixture was diluted with EtOAc and washed with sat NaHCO3, and sat NaCl. The organic phase was dried over Na2SO4, filtered and concentrated and purified by trituration with Et2O to give the titled compound (140 mg, 92%). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.40 (1H, br. s.), 12.91 (1H, br. s.), 8.45-8.55 (1H, m), 8.13 (1H, s), 7.97-8.08 (2H, m), 7.85-7.95 (1H, m), 7.73-7.85 (4H, m), 7.59-7.67 (1H, m), 7.49-7.58 (1H, m), 7.35-7.45 (2H, m), 6.84 (1H, br. s.), 2.87 (3H, d, J=4.52 Hz). LC-MS retention time: 1.41 min; m/z (MH+): 412. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% acetonitrile/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% acetonitrile/10 mM ammonium acetate. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 mm, Rt=11.86 min, purity=97%; Column: Waters XBridge phenyl column 4.6×150 mm, 3.5 mm, Rt=10.97 min, purity=99%.

reactant | Cesium carbonate | 0.719 mmol, 234 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate | 0.359 mmol, 150 mg | FC(S(=O)(=O)OC=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)(F)F | C17H11F4NO5S
reactant | 5-(3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-1H-pyrazole | 0.539 mmol, 146 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)C1=CC=NN1)C | C15H19BN2O2
reactant | Dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.018 mmol, 20.77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 599 μL | O | H2O
product | 5-(3-(1H-Pyrazol-5-yl)phenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 140 mg, 92% | N1N=CC=C1C=1C=C(C=CC1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1 | C25H18FN3O2
